US06720338B2
1-cyclohexyl-2-(phenylsulfanyl)ethanol
A room temperature solution of vinylcyclohexane (1.71 g, 15.5 mmol) in dichloromethane (20 mL) was treated with 70% mCPBA (4.90 g, 19.9 mmol), stirred for 3 hours, diluted with diethyl ether (100 mL), washed with saturated NaHCO3 and brine, dried (MgSO4), filtered, and concentrated. The concentrate was dissolved in 1,2-dichloroethane (20 mL), treated with thiophenol (1.8 g, 16.3 mmol), heated to 80° C., stirred for 5 hours, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 20% ethyl acetate/hexanes to provide the desired product. MS (DCI/NH3) m/e 254 (M+NH4).

reactant | vinylcyclohexane | 15.5 mmol, 1.71 g | C(=C)C1CCCCC1 | C8H14
reactant | mCPBA | 19.9 mmol, 4.90 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | thiophenol | 16.3 mmol, 1.8 g | C1(=CC=CC=C1)S | C6H6S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 1-cyclohexyl-2-(phenylsulfanyl)ethanol | C1(CCCCC1)C(CSC1=CC=CC=C1)O | C14H20OS
